US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(pyrimidin-5-yl)-benzimidazol-1-yl]pyrimidine
To a stirred solution of 2-[(S)-1-phenylethylamino]-4-[5-(tributylstannyl)-benzimidazol-1-yl]pyrimidine (27.7 mg) in THF (3 mL) was added 5-bromopyrimidine (22 mg), Pd2DBA3 (0.26 mg) and tri-o-tolylphosphine (0.47 mg). The mixture was heated and maintained at reflux for 2 h. Thin layer chromatographic analysis indicated there was mostly starting material present. DMF (3 mL) was added and the THF was removed under a stream of nitrogen. Tetrakis(triphenylphosphine)palladium(0) (1 mg) was added and the mixture was heated under nitrogen and maintained at 100° C. overnight. The mixture was then cooled and poured into 100 mL of 3:1 ether/ethyl acetate and washed 2× with water and then brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The product was purified by silica gel chromatography eluting with methanol in dichloromethane to give 11.3 mg of the title compound. Mass spectrum (ESI): 394.2 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-(tributylstannyl)-benzimidazol-1-yl]pyrimidine | 27.7 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](CCCC)(CCCC)CCCC
reactant | 5-bromopyrimidine | 22 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd2DBA3 | 0.26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-o-tolylphosphine | 0.47 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 2-[(S)-1-Phenylethylamino]-4-[5-(pyrimidin-5-yl)-benzimidazol-1-yl]pyrimidine | 11.3 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=2C=NC=NC2 | C23H19N7
